US04110341
To a suspension of 1.9 g. of sodium hydride (63% content) in 60 ml. of a mixture of dimethyl sulphoxide and 1,2-dimethoxyethane (2:1), there were added dropwise 3.7 ml. of thiolacetic acid at 0° C. with stirring under an atmosphere of nitrogen to give a sodium thiolacetate solution. To the reaction solution thus obtained, there was added a solution of 8.4 g. of methyl 9α,11α-bis-(p-toluenesulphonyloxy)-15α-(2-tetrahydropyranyloxy)-prosta-cis-5,trans-13-dienoate (prepared as described in Reference Example 5) in 30 ml. of a mixture of dimethyl sulphoxide and 1,2-dimethoxyethane (2:1) at 0° C., and the reaction mixture was stirred for 20 hours at room temperature. The reaction mixture was then poured into 500 ml. of ice-water, extracted with ethyl acetate, and the extract washed with an aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel, first using a mixture of benzene and ethyl acetate (20:1) as eluent to give 5 g. of the title compound contaminated with by-products, and then by column chromatography on silica gel using a mixture of cyclohexane and ethyl acetate (5:1) as eluent to give 2.35 g. of the title compound having the following physical characteristics:

reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulphoxide | CS(=O)C | C2H6OS
reactant | thiolacetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | sodium thiolacetate | S1C(=CC=C1)CC(=O)[O-].[Na+] | InChI=1S/C6H6O2S.Na/c7-6(8)4-5-2-1-3-9-5;/h1-3H,4H2,(H,7,8);/q;+1/p-1
